data/mechanism_extracts/OrgLett/10.1021_acs.orglett.0c00176.json
{"doi": "10.1021_acs.orglett.0c00176", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical intramolecular oxytrifluoromethylation of N-tethered alkenyl alcohols using Langlois reagent (CF3SO2Na) to deliver 2-(2,2,2-trifluoroethyl)morpholines", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "direct_SET"], "electrochemical_role": "Anodic oxidation of CF3SO2Na (Langlois reagent) generates CF3SO2 radical that extrudes SO2 to release CF3 radical; a second anodic SET oxidizes the alkyl radical adduct to a carbocation that is trapped intramolecularly by the tethered alcohol", "key_intermediates": [{"name": "CF3SO2 radical (from anodic SET on CF3SO2Na)", "smiles": "[O]S(=O)C(F)(F)F", "role": "transient"}, {"name": "CF3 radical", "smiles": "[C](F)(F)F", "role": "reactive"}, {"name": "beta-CF3 alkyl carbon-centered radical (intermediate 6)", "smiles": null, "role": "reactive"}, {"name": "beta-CF3 alkyl carbocation (intermediate 7)", "smiles": null, "role": "reactive"}, {"name": "trifluoromethylated morpholine product 3", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2Na by SET to give CF3SO2 radical which loses SO2 to form CF3 radical; CF3 radical adds regioselectively to the terminal alkene to form a secondary C-radical, which is further oxidized at the anode to a carbocation; the tethered hydroxyl performs intramolecular nucleophilic addition with loss of H+ to give the morpholine, while cathodic reduction of H+/H2O liberates H2.", "rate_determining_step": null, "probe_reagents": [{"name": "no-current control", "smiles": null, "purpose": "other", "observation": "No reaction in the absence of electric current (Table 1, entry 10), confirming electrochemical initiation"}, {"name": "cyclic voltammetry of Langlois reagent vs substrate 1a", "smiles": null, "purpose": "redox_probe", "observation": "CF3SO2Na shows irreversible anodic oxidation at 1.48 V (vs Ag/AgCl), substantially lower than substrate 1a at 2.07 V, indicating selective oxidation of Langlois reagent at the anode"}], "evidence_types_used": ["cyclic_voltammetry", "on/off_light_or_current"], "evidence_strength": "weak", "notes": "Mechanism proposed on the basis of control experiments (no current = no reaction), CV data, and analogy to prior reports; no radical trap (e.g., TEMPO/BHT), KIE, or DFT studies are reported. Method also extends to a 7-membered benzoxazepine from an alken-7-ol substrate (Scheme 3)."}
